US07745475B2
2-Chloro-4,5-difluoro-N,N-dimethylbenzamide
A solution of 2-chloro-4,5-difluorobenzoic acid (385 mg, 2.0 mmol) in DCM (5 mL) was treated with (1-chloro-2-methylprop-1-en-1-yl)dimethylamine (293 mg, 2.2 mmol) and stirred under argon for 1 hour. The mixture was then treated with triethylamine (0.56 mL, 4.0 mmol) and a 2M solution of dimethylamine in THF (1.2 mL, 2.4 mmol), and stirred for 18 hours. The mixture was diluted with DCM (5 mL) and 2M hydrochloric acid (4 mL) and separated. The organic layer was dried (MgSO4), filtered and concentrated in vacuo to afford the title compound (425 mg). The residue was used without further purification.

reactant | 2-chloro-4,5-difluorobenzoic acid | 2.0 mmol, 385 mg | ClC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3ClF2O2
reactant | (1-chloro-2-methylprop-1-en-1-yl)dimethylamine | 2.2 mmol, 293 mg | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | triethylamine | 4.0 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylamine | CNC | C2H7N
reactant | THF | 2.4 mmol, 1.2 mL | C1CCOC1 | C4H8O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | hydrochloric acid | 2M, 4 mL | Cl | ClH
product | 2-Chloro-4,5-difluoro-N,N-dimethylbenzamide | 425 mg | ClC1=C(C(=O)N(C)C)C=C(C(=C1)F)F | C9H8ClF2NO
